US06916828B2
(R)-3-quinuclidyl chloroformate, hydrochloride
To a solution of 8.7 mL (74.8 mmol) of trichloromethyl chloroformate in 240 mL of dichloromethane, a solution of 4.75 g (37.4 mmol) of (R)-3-quinuclidol in 240 mL of dichloromethane was added dropwise at 0° C. in inert atmosphere and with continuous stirring. Then, the mixture was stirred at room temperature for 24 h, and the solvent was distilled off under reduced pressure to give 8.46 g (37.4 mmol) of a white solid corresponding to the title compound. IR (KBr, cm−1): 3380, 2650-2500, 1776.

reactant | trichloromethyl chloroformate | 74.8 mmol, 8.7 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (R)-3-quinuclidol | 37.4 mmol, 4.75 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
product | (R)-3-quinuclidyl chloroformate, hydrochloride | Cl.ClC(=O)O[C@H]1CN2CCC1CC2 | InChI=1S/C8H12ClNO2.ClH/c9-8(11)12-7-5-10-3-1-6(7)2-4-10;/h6-7H,1-5H2;1H/t7-;/m0./s1
